Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.03267143804
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:2][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[H:1][C:3],10.6625744409
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8][H:9],5.132735342109999
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2]=[O:3],0.723925096499
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.7123826297
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11][H:12].[H:9],4.901463115009999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14],5.36622963698
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],1.44243896875
[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-6.9676766093
[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-5.19152522356
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],3.0923290690200003
[C:7]([H:8])=[C:9]([H:10])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.01569766701
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.72702728847
[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-3.21133142745
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[H:1][C:2],4.81899334405
[C:6]([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.54162059161
[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.898177062709999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16],4.2084739223800005
[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[C:3]#[C:4][O:5][C:6][C:7]([H:8])[H:9].[H:1][O:2],6.19717703146
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.66001814665
[H:1][C:2](=[O:3])[C:13]([C:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.3521607913400001
[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.10364184344
[H:1][O:2][C:3]([H:4])[H:5].[H:6]>>[H:1][O:2][C:3]([H:4])([H:5])[H:6],-4.294511355330002
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][H:7],2.882608121
[H:1][C:2]#[C:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.78599515608
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],4.931307174740001
[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.42116266722
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],3.7349601735
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.96033381567
